.SUBCKT UA555  1 2 3 4 5 6  7 8
*              G T O R F TH D V
R1  9  8       4.7K
R2  N3 8       830
R3  N8 8       4.7K
R4  10 8       1K
R5  14 1       100K
R6  22 1       100K
R7  17 1       10K
R8  18 5       5K
R9  18 1       5K
R10 8  5       5K
R11 20 31      5K
R12 25 27      4.7K
R13 8  29      6.8K
R14 16 15      100
R15 16 26      220
R16 16 1       4.7K
R17 28 3       3.9K

Q3  N2 N2 9    QP
Q4  25 N2 N3   QP
Q5  1  N6 N3   QP
Q6  N6 N6 N8   QP
Q7  N2 6  N5   QN
Q8  N2 N5 17   QN
Q9  N6 N4 17   QN
Q10 N6 5  N4   QN
Q11 12 20 10   QP
Q12 22 11 12   QP
Q13 14 13 12   QP
Q14 1  2  11   QP
Q15 14 18 13   QP
Q16 7  15 1    QN
Q17 15 4  31   QP
Q18 27 20 8    QP
Q19 20 20 8    QP
Q20 24 25 1    QN
Q21 25 22 1    QN
Q22 27 24 1    QN
Q23 8  29 28   QN
Q24 29 27 16   QN
Q25 3  26 1    QN
Q26 8  28 3    QN

D1  31 24      DA
D2  3  29      DA

.MODEL DA D   (rs=40 is=1.0e-14 cjo=1pf)
.MODEL QP PNP (level=1 BF=20 BR=0.02 RC=4 RB=25 IS=1.0E-14 VA=50 NE=2 CJE=12.4P VJE=1.1 MJE=.5 CJC=4.02P VJC=.3 MJC=.3 TF=229P TR=159N)
.MODEL QN NPN (level=1 IS=5.07F NF=1 BF=100 VAF=161 IKF=30M ISE=3.9P NE=2 BR=4 NR=1 VAR=16 IKR=45M RE=1.03 RB=4.12 RC=.412 XTB=1.5 CJE=12.4P VJE=1.1 MJE=.5 CJC=4.02P VJC=.3 MJC=.3 TF=229P TR=959P)
.ENDS UA555
 